US03952104
A mixture of 3.32 parts of 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester and 3.33 parts of selenium dioxide was refluxed in 35 parts of xlene for eight hours. The reaction mixture was cooled, ether was added and the insoluble inorganic products were removed by filtration. Evaporation of the volatile components of the filtrate gave a brown residue which crystallised from light petroleum (b.p. 40°-60°C) to give 1.54 parts of 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester, m.p. 130°-131.5°C.

reactant | 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(CC(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H28O4
reactant | selenium dioxide | [Se](=O)=O | O2Se
solvent | ether | CCOCC | C4H10O
product | 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H26O4
